US06440995B1
(RS)-3-[2-(4-Methoxy-3-methyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 166-171° C., and MS: m/e=338 (M+), was prepared from 4-chloro-2-(4-methoxy-3-methyl-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(4-methoxy-3-methyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)OC)C | C17H14ClNO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(4-Methoxy-3-methyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.COC1=C(C=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O)C | InChI=1S/C20H22N2O3.ClH/c1-13-9-14(7-8-20(13)25-2)18-10-19(21-11-15(24)12-23)16-5-3-4-6-17(16)22-18;/h3-10,15,23-24H,11-12H2,1-2H3,(H,21,22);1H
